US08609653B2
An ice cold mixture of ethyl 9-cyclopropyl-4-hydroxy-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate (1.362 g, 4.33 mmol) in dichloromethane (DCM) (20 ml) was treated with Et3N (0.906 ml, 6.50 mmol) and Tf2O (0.805 ml, 4.77 mmol), and then stirred at 0° C. for 90 min. The mixture was concentrated and purified with column chromatography (0-50% EtOAc/Hexane, 120 g silica gel) to give ethyl 9-cyclopropyl-2-methyl-4-(((trifluoromethyl)sulfonyl)oxy)-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate (1.8341 g, 4.11 mmol, 95% yield) as white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 4.39 (q, J=7.2 Hz, 2 H), 3.17-2.98 (m, 1 H), 2.90-2.78 (m, 4 H), 2.75 (s, 3 H), 1.99-1.88 (m, 2 H), 1.88-1.76 (m, 2 H), 1.40 (t, J=7.2 Hz, 3 H), 1.22-1.07 (m, 4 H); LCMS (m/z) ES+=447 (M+1).

reactant | ethyl 9-cyclopropyl-4-hydroxy-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate | 4.33 mmol, 1.362 g | C1(CC1)N1C2=C(C=3CCCCC13)C(=C(C(=N2)C)C(=O)OCC)O | C18H22N2O3
reactant | Et3N | 6.50 mmol, 0.906 ml | CCN(CC)CC | C6H15N
reactant | Tf2O | 4.77 mmol, 0.805 ml | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 9-cyclopropyl-2-methyl-4-(((trifluoromethyl)sulfonyl)oxy)-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate | 4.11 mmol, 1.8341 g, 95% yield | C1(CC1)N1C2=C(C=3CCCCC13)C(=C(C(=N2)C)C(=O)OCC)OS(=O)(=O)C(F)(F)F | C19H21F3N2O5S
